US07829585B2
Tributyl-ethoxymethyl-stannane
To a mixture of diisopropylamine (2.1 mL, 15 mmol) and tetrahydrofuran (30 mL) was dropped n-butyl lithium (2.4 M n-hexane solution, 5.0 mL, 12 mmol) at −78° C., which was stirred for 30 minutes at the same temperature. Tributyl tin hydride (3.3 mL, 12 mmol) was dropped at the same temperature followed by stirring for 40 minutes under ice-cold conditions. The reaction mixture was cooled to −78° C. and chloromethyl ethyl ether (1.1 mL, 12 mmol) was dropped into the reaction mixture. The reaction mixture was gradually warmed to room temperature followed by additionally stirring at room temperature for 3 hours. The reaction mixture was distributed among water (100 mL), saturated aqueous ammonia (50 mL) and diethyl ether (100 mL). The organic layer was separated followed by washing with sat. NaCl and concentrating under a reduced pressure. The residue was purified by neutral silica gel column chromatography (heptane:diethyl ether=30:1) to obtain the title compound (2.8 g, 65%) as a colorless oil.

reactant | diisopropylamine | 15 mmol, 2.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 12 mmol, 2.4 M, 5.0 mL | C(CCC)[Li]
reactant | Tributyl tin hydride | 12 mmol, 3.3 mL | C(CCC)[SnH](CCCC)CCCC
reactant | chloromethyl ethyl ether | 12 mmol, 1.1 mL | C(C)OCCl | C3H7ClO
reactant | ammonia | 50 mL | N | H3N
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Tributyl-ethoxymethyl-stannane | 2.8 g, 65% | C(CCC)[Sn](COCC)(CCCC)CCCC | InChI=1S/3C4H9.C3H7O.Sn/c4*1-3-4-2;/h3*1,3-4H2,2H3;2-3H2,1H3;
